US07153855B2
A mixture of 4-[7-chloro-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-cyclopropyl-2-pyrimidinamine (75 mg, 0.19 mmol) and morpholine (2 mL, 23 mmol) was heated in a sealed tube at 140° C. for 4 hours. After cooling to room temperature, the mixture was concentrated. Flash chromatography (1:1 to 1:3 hexanes-ethyl acetate) provided N-cyclopropyl-4-[2-(4-methoxyphenyl)-7-(4-morpholinyl)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinamine (78.4 mg, 92%) as an off-white solid. 1H NMR (CDCl3): δ 8.29 (d, 1 H), 8.08 (d, 1 H), 7.61 (d, 2 H), 7.31 (t, 1 H), 6.98 (d, 2 H), 6.45 (d, 1 H), 6.33 (d, 1 H), 5.40 (broad, 1 H), 4.00 (m, 4 H), 3.89 (d, 3 H), 3.51 (m, 4 H), 2.88 (m, 1 H), 0.89 (m, 2 H), 0.65 (m, 2 H); MS m/z 443 (M+1).

reactant | 4-[7-chloro-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-cyclopropyl-2-pyrimidinamine | 0.19 mmol, 75 mg | ClC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CC2)C2=CC=C(C=C2)OC | C21H18ClN5O
reactant | morpholine | 23 mmol, 2 mL | N1CCOCC1 | C4H9NO
product | N-cyclopropyl-4-[2-(4-methoxyphenyl)-7-(4-morpholinyl)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinamine | 78.4 mg, 92% | C1(CC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2N2CCOCC2)C2=CC=C(C=C2)OC | C25H26N6O2
